US04289766
The procedure of Example 1 was repeated, except that the reactants consisted of 37.5 g. of 2-aminothiophenol and 17.5 g. of propionaldehyde. The residue which remained after the removal of solvent was distilled in vacuo, chromatographed on a silica gel column with toluene as eluant, and redistilled at 94°-104°/0.3 mm. to give 2-ethylbenzothiazoline. The following elemental micro-analysis was obtained:

reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 2-ethylbenzothiazoline | C(C)C=1SC2=C(N1)C=CC=C2 | C9H9NS
